US07214835B2
A toluene (100 ml) solution of 7-ethoxy-3-[2-[trans-4-(trans-4-butylcyclohexyl)cyclohexyl]-1-hydroxyethyl]-1,2,8-trifluoronaphthalene and p-toluenesulfonic acid (0.6 g) was refluxed with heating in an autoclave for 1 hour. The reaction solution was washed with water and brine, and concentrated. The crude production of (E)-7-ethoxy-3-[2-[trans-4-(trans-4-butylcyclohexyl)cyclohexyl]ethenyl]-1,2,8-trifluoronaphthalene (16.6 g) was obtained.

reactant | 7-ethoxy-3-[2-[trans-4-(trans-4-butylcyclohexyl)cyclohexyl]-1-hydroxyethyl]-1,2,8-trifluoronaphthalene | C(C)OC1=CC=C2C=C(C(=C(C2=C1F)F)F)C(C[C@@H]1CC[C@H](CC1)[C@@H]1CC[C@H](CC1)CCCC)O | C30H41F3O2
reactant | p-toluenesulfonic acid | 0.6 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | (E)-7-ethoxy-3-[2-[trans-4-(trans-4-butylcyclohexyl)cyclohexyl]ethenyl]-1,2,8-trifluoronaphthalene | 16.6 g | C(C)OC1=CC=C2C=C(C(=C(C2=C1F)F)F)\C=C\[C@@H]1CC[C@H](CC1)[C@@H]1CC[C@H](CC1)CCCC | C30H39F3O
